US07435815B2
Ethyl-thiazol-2-ylmethyl-amine
prepared by reaction of ethylamine with thiazole-2-carbaldehyde

reactant | ethylamine | C(C)N | C2H7N
reactant | thiazole-2-carbaldehyde | S1C(=NC=C1)C=O | C4H3NOS
product | Ethyl-thiazol-2-ylmethyl-amine | C(C)NCC=1SC=CN1 | C6H10N2S
